US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-(carboxymethylthio)purine
To a methanol solution (5 ml) containing 500 mg of sodium hydroxide was added 6-amino-9-benzyl-8-hydroxy-2-(methoxycarbonylmethyl)thiopurine (64 mg, 0.19 mmol). The solution was refluxed under heating, neutralized with 2N hydrochloric acid, filtered and washed with water to give the subject compound (32 mg, yield 52%).

reactant | sodium hydroxide | 500 mg | [OH-].[Na+]
reactant | 6-amino-9-benzyl-8-hydroxy-2-(methoxycarbonylmethyl)thiopurine | 0.19 mmol, 64 mg | NC1=C2N=C(N(C2=NC(=N1)SCC(=O)OC)CC1=CC=CC=C1)O | C15H15N5O3S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 6-Amino-9-benzyl-8-hydroxy-2-(carboxymethylthio)purine | 32 mg, yield 52% | NC1=C2N=C(N(C2=NC(=N1)SCC(=O)O)CC1=CC=CC=C1)O | C14H13N5O3S
